US08865726B2
Diphosgene (0.704 mL, 6.05 mmol) was added dropwise to a stirred suspension of (S)-2-amino-2-cyclohexylethanol (1.02 g, 7.12 mmol), Et3N (6.95 mL, 49.9 mmol) and activated charcoal (40 mg) in THF (20 mL) at 0° C. under N2. The reaction mixture was heated at 50° C. overnight. After cooling, the suspension was filtered through Celite. To the filtrate was added sat. aq. NaHCO3 solution. The mixture was extracted with EtOAc. The combined organic layers were washed with brine, dried and concentrated. The residue was purified by silica gel flash column chromatography (1:1 hexane/EtOAc) to give (S)-4-cyclohexyloxazolidin-2-one (0.900 g, 75%) as a white solid.

reactant | Diphosgene | 6.05 mmol, 0.704 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | (S)-2-amino-2-cyclohexylethanol | 7.12 mmol, 1.02 g | N[C@H](CO)C1CCCCC1 | C8H17NO
reactant | Et3N | 49.9 mmol, 6.95 mL | CCN(CC)CC | C6H15N
reactant | charcoal | 40 mg | C | CH4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-4-cyclohexyloxazolidin-2-one | 0.900 g, 75% | C1(CCCCC1)[C@@H]1NC(OC1)=O | C9H15NO2
